US09340538B2
Ethyl 4-(2-bromo-4-fluorophenyl)-6-((2-(3-(methylamino)-3-oxopropyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
3-(4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholin-2-yl)propanoic acid (0.69 g, 1.19 mmol) was reacted with methanamine hydrochloride (0.12 g, 1.8 mmol) according to the procedure as described in Example 62, Step B to give the title compound as a yellow solid (0.27 g, 38%). The compound was characterized by the following spectroscopic data:

reactant | 3-(4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholin-2-yl)propanoic acid | 1.19 mmol, 0.69 g | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1CC(OCC1)CCC(=O)O)C(=O)OCC | C24H26BrFN4O5S
reactant | methanamine hydrochloride | 1.8 mmol, 0.12 g | Cl.CN
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-((2-(3-(methylamino)-3-oxopropyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.27 g, 38% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CN1CC(OCC1)CCC(=O)NC)C=1SC=CN1 | C25H29BrFN5O4S
